US04689339
Benzofuran-2-yl methyl ketone (20 g) is dissolved in 100 ml of methylene chloride and 3.2 ml of bromine in methylene chloride is added at 5°-10° C. Then the reaction mixture is stirred at +15° C. for 2 hours. Then it is washed with water, with diluted sodium bicarbonate solution and again with water. The organic phase is dried and evaporated to dryness to give crude 1-(benzofuran-2-yl)-2-bromoethanone.

reactant | Benzofuran-2-yl methyl ketone | 20 g | CC(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
reactant | bromine | 3.2 ml | BrBr | Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(benzofuran-2-yl)-2-bromoethanone | O1C(=CC2=C1C=CC=C2)C(CBr)=O | C10H7BrO2
